US07696216B2
1-(2-Hydroxy-pyridin-3-ylmethyl)-4-(4-isopropy-phenyl)-6-propargyloxy-1H-quinazolin-2-one
A solution of 290 mg (0.635 mmol) of {2-[(2-tert-butoxy-pyridin-3-ylmethyl)-amino]-5-propargyloxy-phenyl}-(4-isopropyl-phenyl)-methanone and in 7 ml acetic acid is reacted with 50 mg (0.762 mmol) sodium cyanate. After stirring overnight the mixture is distributed between ethyl acetate and aqueous bicarbonate solution. The organic layer is concentrated to yield the title compound in the form of a yellow solid.

reactant | {2-[(2-tert-butoxy-pyridin-3-ylmethyl)-amino]-5-propargyloxy-phenyl}-(4-isopropyl-phenyl)-methanone | 0.635 mmol, 290 mg | C(C)(C)(C)OC1=NC=CC=C1CNC1=C(C=C(C=C1)OCC#C)C(=O)C1=CC=C(C=C1)C(C)C | C29H32N2O3
reactant | sodium cyanate | 0.762 mmol, 50 mg | [O-]C#N.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | bicarbonate | C([O-])(O)=O
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 1-(2-Hydroxy-pyridin-3-ylmethyl)-4-(4-isopropy-phenyl)-6-propargyloxy-1H-quinazolin-2-one | OC1=NC=CC=C1CN1C(N=C(C2=CC(=CC=C12)OCC#C)C1=CC=C(C=C1)C(C)C)=O | C26H23N3O3
